US06911458B2
N-Methyl-2-[(2-methyl-2-oxiranyl)methoxy]benzamide was prepared from 2-hydroxy-N-methylbenzamide (prepared according to Cohen et al, J. Am. Chem. Soc., 1998, 20, 6277-6286.) according to the method described for N-{2-[(2-methyl-2-oxiranyl)methoxy]phenyl}benzamide.

reactant | 2-hydroxy-N-methylbenzamide | OC1=C(C(=O)NC)C=CC=C1 | C8H9NO2
reactant | N-{2-[(2-methyl-2-oxiranyl)methoxy]phenyl}benzamide | CC1(OC1)COC1=C(C=CC=C1)NC(C1=CC=CC=C1)=O | C17H17NO3
product | N-Methyl-2-[(2-methyl-2-oxiranyl)methoxy]benzamide | CNC(C1=C(C=CC=C1)OCC1(OC1)C)=O | C12H15NO3
